US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-glycineamide
Eight-hundred milligrams of (E)-3-(3-amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Boc-glycineamide were dissolved in 3 ml of dichloromethane, and 3 ml of a solution of 4-M hydrochloric acid and dioxane were added thereto. The mixture was reacted at room temperature for 2 hours. Thirty milliliters of diethyl ether were added thereto, and the resulting mixture was filtered. The thus-obtained powder was hot-washed with a mixture of chloroform, isopropanol and toluene at a ratio by of 6:8:20 to produce 483 mg (1.11 mmols) of the final compound in a yield of 65%.

reactant | (E)-3-(3-amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Boc-glycineamide | Eight-hundred milligrams | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OC(C)(C)C)NCC(=O)N
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | diethyl ether | Thirty milliliters | C(C)OCC | C4H10O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile glycineamide | 1.11 mmols, 483 mg, yield of 65% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.NCC(=O)N | InChI=1S/C19H20N2O4.C2H6N2O/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;3-1-2(4)5/h5-10H,21H2,1-4H3;1,3H2,(H2,4,5)/b14-7-;
